US05723618
4-(2-Chlorophenyl)-2-methyl-6-(2-oxo-ethoxymethyl)-1,4-dihydro-3,5-pyridinedicarboxylic acid 5-ethyl 3-methyl ester (ID)
To an ice-cooled solution of 4-(2-chlorophenyl)-2-(2,3-dihydroxypropoxymethyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylic acid 3-ethyl 5-methyl ester (IC, 13.0 g) in methanol (150 mL) was added a solution of sodium periodate (7.6 g) dissolved in water (100 mL) dropwise over 15 min. After stirring for 10 min, a saturated solution of ammonium chloride (25 mL) was added. Volatile materials were removed under reduced pressure, then ethyl acetate (200 mL) and water (100 mL) were added. The organic layer was separated and the aqueous layer was twice extracted with ethyl acetate (50 mL). The combined organic fractions was washed with brine, dried (sodium sulfate), filtered and concentrated in vacuo to afford the title compound (11.8 g). Thin layer chromatography and proton NMR spectrum showed the crude title compound (ID) was sufficiently pure.

reactant | 4-(2-chlorophenyl)-2-(2,3-dihydroxypropoxymethyl)-1,4-dihydro-6-methyl-3,5-pyridinedicarboxylic acid 3-ethyl 5-methyl ester | 13.0 g | COC(=O)C=1C(C(=C(NC1C)COCC(CO)O)C(=O)OCC)C1=C(C=CC=C1)Cl | C21H26ClNO7
reactant | sodium periodate | 7.6 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
solvent | methanol | 150 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 4-(2-Chlorophenyl)-2-methyl-6-(2-oxo-ethoxymethyl)-1,4-dihydro-3,5-pyridinedicarboxylic acid 5-ethyl 3-methyl ester | 11.8 g | COC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)Cl)C(=O)OCC)COCC=O)C | C20H22ClNO6
